US07494984B2
1-Phenyl-4, 5-dihydro-1H-imidazol-2-amine hydrobromide
Reaction of N-phenylethylenediamine (9.80 g, 0.072 mol) with cyanogen bromide (7.62 g, 0.072 mol) as described in the preparation of intermediate 6 gave 11.76 g (67% yield) of the title product as white crystals from ethanol. 1HNMR 400 MHz (DMSO-d,) δ (ppm): 3.68 (2H, t, J=8.7 Hz, CH2), 4.08 (2H, t, J=8.7 Hz, CH2), 7.40-7.54 (5H, m, aromatics), 8.08 (broad s, NH). MS (ESI+) m/e 162 [M+H+].

reactant | N-phenylethylenediamine | 0.072 mol, 9.80 g | C1(=CC=CC=C1)NCCN | C8H12N2
reactant | cyanogen bromide | 0.072 mol, 7.62 g | N#CBr | CBrN
solvent | ethanol | C(C)O | C2H6O
product | 1-Phenyl-4, 5-dihydro-1H-imidazol-2-amine hydrobromide | 11.76 g, 67% yield | Br.C1(=CC=CC=C1)N1C(=NCC1)N | InChI=1S/C9H11N3.BrH/c10-9-11-6-7-12(9)8-4-2-1-3-5-8;/h1-5H,6-7H2,(H2,10,11);1H
